US05693633
4-Hydroxy-L-proline lacetone hydrobromide (0.74 mmoles, 143 mg) and 2-[5-(2-tetrazol-5-ylphenyl)benzimidazol-1-yl]octanoic acid (0.74 mmoles, 300 mg) were dissolved in 30 ml DMF and cooled to 0° C. N,N-Diisopropylethylamine (0.74 moles, 0.15 ml) was added. The solution was stirred for 10 minutes. Hydroxybenzotriazole (0.74 mmoles, 100 mg) and then dicyciohexylcarbodiimide (0.74 mmoles, 153 mg) were added. The solution was stirred at room temperature for 3 days. The intermediate was extracted in ethyl acetate. The ethyl acetate solution was washed with water, dried over sodium sulfate, concentrated. The residue was chromatographed over silica gel eluted with 10% methanol in ethyl acetate. The reaction yielded 200 mg of 1-[1-oxo-2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octyl]-4-hydroxy-L-proline lacetone. (MS). The lactone was dissolved in 2.0 ml methanol/2.0 ml 2N NaOH and stirred at room temperature for 16 hours The solvent was removed in vacuo. Water was added. The solution was extracted with ether. The pH of the aqueous layer was adjusted to 3.2 using 2N HCl. The precipitate was filtered, washed with water, and dried to yield 37 mg. The aqueous phase was extracted with ethyl acetate, dried and concentrated to yield an additional 60 mg of 1-[1-oxo-2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazole-1-yl]octyl]-4-hydroxy-L -prolite. (MS)

reactant | 4-Hydroxy-L-proline | 0.74 mmoles, 143 mg | OC1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | 2-[5-(2-tetrazol-5-ylphenyl)benzimidazol-1-yl]octanoic acid | 0.74 mmoles, 300 mg | N1N=NN=C1C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(C(=O)O)CCCCCC)C=C1 | C22H24N6O2
reactant | N,N-Diisopropylethylamine | 0.74 moles, 0.15 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Hydroxybenzotriazole | 0.74 mmoles, 100 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyciohexylcarbodiimide | 0.74 mmoles, 153 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-[1-oxo-2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octyl]-4-hydroxy-L-proline | 200 mg | O=C(C(CCCCCC)N1C=NC2=C1C=CC(=C2)C2=C(C=CC=C2)C=2N=NNN2)N2[C@H](C(=O)O)CC(C2)O | C27H31N7O4
